US08440666B2
4-Chloro-2-[(2R)-oxiran-2-ylmethyl]-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one
4-Chloro-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (120 mg, 0.425 mmol) in N,N-dimethylformamide (2 mL) was mixed with (2S)-oxiran-2-ylmethyl 4-methylbenzenesulfonate (117 mg, 0.513 mmol) and potassium carbonate (71 mg, 0.0514 mmol) at room temperature and stirred at 80° C. for 3 hours. After cooling, the reaction solution was mixed with water and extracted with ethyl acetate, and the extract was evaporated under reduced pressure. The resulting crude product was used for the next reaction without purification.

reactant | 4-Chloro-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.425 mmol, 120 mg | ClC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20ClN3O
reactant | (2S)-oxiran-2-ylmethyl 4-methylbenzenesulfonate | 0.513 mmol, 117 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC1 | C10H12O4S
reactant | potassium carbonate | 0.0514 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2-[(2R)-oxiran-2-ylmethyl]-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | ClC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C[C@H]2OC2)=O | C17H24ClN3O2
